US05693677
To a mixture of p-toluenesulfonyl chloride (54.43 g; 286 mmoles) and ethyl acetate (425 ml) stirred at 40° C. a solution of oleic acid (86.1 g; purity 90%; 305 mmoles) and triethyl amine (100 ml) in ethyl acetate (160 ml) was added during 30 minutes. After stirring was continued at 43° C. for another 30 minutes this reaction mixture, containing the mixed anhydride of oleic acid, was added to a stirred mixture of phytosphingosine sulphate (84.03 g), triethyl amine (40 ml) and ethyl acetate (275 ml) during 30 minutes at 43° C. The flask that contained the mixed anhydride was rinsed with 50 ml ethyl acetate. After stirring for about 1 hour at 43° C. 400 ml of water was added to the reaction mixture and the pH was adjusted at 6.8 with 18 ml of a HCl solution (37%). The the layers were separated and the organic layer was washed again with 400 ml of water of which the pH was adjusted to 6.4 with 2 ml of a HCl solution (37%). After washing the ethyl acetate layer with 150 ml of a NaCl solution (10% in water) 500 ml of ethyl acetate was removed by distillation. More ethyl acetate (500 ml) was added and another 200 ml of ethyl acetate was removed by distillation. After cooling the ethyl acetate solution to 20° C. the crystalline product was filtered off, washed with ethyl acetate (2×200 ml) and dried in vacuo giving 87.99 g of N-oleoyl-phytosphingosine.

reactant | p-toluenesulfonyl chloride | 286 mmoles, 54.43 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | oleic acid | 305 mmoles, 86.1 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | triethyl amine | 100 ml | C(C)N(CC)CC | C6H15N
reactant | phytosphingosine sulphate | 84.03 g | S(=O)(=O)(O)O.OC[C@H](N)[C@H](O)[C@H](O)CCCCCCCCCCCCCC
reactant | triethyl amine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 275 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 425 ml | C(C)(=O)OCC | C4H8O2
product | N-oleoyl-phytosphingosine | 87.99 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC | C36H71NO4
